US04299992
A mixture of 137 g (1 mole) of o-nitrotoluene, 60 g of paraformaldehyde and 400 ml of dimethyl formamide containing 0.5% by weight of water is heated to 70° C. under stirring. Thereafter 40 g of potassium hydroxide, covered with 100 ml dimethyl formamide, are added to the mixture at such a rate that the temperature of the reaction mixture does not increase above 120° C. The resulting mixture is stirred for 3 minutes at a temperature above 85° C., thereafter it is cooled and filtered through a sintered glass filter. The filtrate is acidified with hydrochloric acid to pH=3, filtered again, and the resulting filtrate is evaporated. 100 g of a residue, containing 80% by weight of 2-(o-nitrophenyl)-ethanol, are obtained. This residue is distilled in vacuo to obtain 70 g of 2-(o-nitrophenyl)-ethanol with a purity grade of 98%. 45 g of o-nitrotoluene are recovered. The product is analyzed by gas chromatography.

reactant | o-nitrotoluene | 1 mole, 137 g | [N+](=O)([O-])C1=C(C=CC=C1)C | C7H7NO2
reactant | paraformaldehyde | 60 g | C=O | CH2O
reactant | potassium hydroxide | 40 g | [OH-].[K+]
solvent | dimethyl formamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | dimethyl formamide | 400 ml | CN(C=O)C | C3H7NO
product | 2-(o-nitrophenyl)-ethanol | 70 g | [N+](=O)([O-])C1=C(C=CC=C1)CCO | C8H9NO3
